US05302720
A mixture of N-(3'-methanesulphonyl-2-biphenylyl)-thiourea (6.1 g), lead acetate trihydrate (7.6 g), potassium hydroxide (11.2 g) and water (30 ml) was heated at 90°-95° C. for 30 minutes to give N-(3'-methanesulphonyl-2-biphenylyl)cyanamide as a yellow oil.

reactant | N-(3'-methanesulphonyl-2-biphenylyl)-thiourea | 6.1 g | CS(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1)NC(=S)N | C14H14N2O2S2
reactant | lead acetate trihydrate | 7.6 g | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
reactant | potassium hydroxide | 11.2 g | [OH-].[K+]
solvent | water | 30 ml | O | H2O
product | N-(3'-methanesulphonyl-2-biphenylyl)cyanamide | CS(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1)NC#N | C14H12N2O2S
